US07759373B2
To a suspension of 4-aminomethyl-2-(4-fluorophenyl)-5-(3-thienyl)oxazole (110 mg) in dichloromethane (5 ml) were successively added dropwise under acetone-ice cooling methanesulfonyl chloride (0.036 ml) and triethylamine (0.15 ml) The reaction mixture was stirred at 0° C. for one hour, and further stirred at room temperature for 2 hours. To the reaction mixture was added a saturated aqueous ammonium chloride solution and extracted with chloroform. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (solvent: chloroform:methanol=100:0→95:5) to obtain a crude product of N-[2-(4-fluorophenyl)-5-(3-thienyl)oxazol-4-yl]-methanesulfonamide (140 mg).

reactant | 4-aminomethyl-2-(4-fluorophenyl)-5-(3-thienyl)oxazole | 110 mg | NCC=1N=C(OC1C1=CSC=C1)C1=CC=C(C=C1)F | C14H11FN2OS
reactant | methanesulfonyl chloride | 0.036 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[2-(4-fluorophenyl)-5-(3-thienyl)oxazol-4-yl]-methanesulfonamide | 140 mg | FC1=CC=C(C=C1)C=1OC(=C(N1)NS(=O)(=O)C)C1=CSC=C1 | C14H11FN2O3S2
